US07001899B2
Preparation of N-{4-[(2-hydroxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-1,1,5-trioxo-1λ6-[1,4]thiazepan-6-yl}-benzamide (46):
A solution of N-{4-[(2-ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-1,1,5-trioxo-1λ6-[1,4]thiazepan-6-yl}-benzamide, 45, (0.03 g, 0.05 mmol) in acetonitrile/water is treated with trifluoroacetic acid. After stirring for 3 hours the solution is concentrated in vacuo and the crude product purified by preparative reverse phase HPLC to afford 0.02 g (77% -yield) of the desired product as a white solid.) 1H NMR (CD3OD): δ 7.90 (m, 2H), 7.62–7.46 (m, 3H), 5.46 (d, J=10.5 Hz, 1H), 4.61 (m, 1H), 4.51 (dd, J=16.3, 5.1 Hz, 1H), 4.36 (m, 2H), 4.02 (dd, J=16.0, 3.3 Hz, 1H), 3.84–3.64 (m, 3H), 3.42 (m, 1H), 3.26 (m, 1H), 2.68 (m, 1H), 2.52 (m, 1H); ESI MS 440.06 (M+H).

reactant | N-{4-[(2-ethoxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-1,1,5-trioxo-1λ6-[1,4]thiazepan-6-yl}-benzamide | C(C)OC1OC(CC1NC(=O)CN1CCS(CC(C1=O)NC(C1=CC=CC=C1)=O)(=O)=O)=O | C20H25N3O8S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile water | C(C)#N.O
product | N-{4-[(2-hydroxy-5-oxo-tetrahydro-furan-3-ylcarbamoyl)-methyl]-1,1,5-trioxo-1λ6-[1,4]thiazepan-6-yl}-benzamide | OC1OC(CC1NC(=O)CN1CCS(CC(C1=O)NC(C1=CC=CC=C1)=O)(=O)=O)=O | C18H21N3O8S
